US07842696B2
Ammonium formate (49 mg, 0.77 mmol) was added to a stirred solution of 4-benzyloxy-N-{1-methyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide (42 mg, 0.07 mmol) in MeOH (10 mL). 10% Pd/c (10 mg) was then added and the resulting mixture stirred at room temperature under an inert atmosphere. The reaction mixture was then stirred at reflux temperature for 2 hrs. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated. The residue was dissolved in EtOAc, washed with water, followed by saturated brine solution. The organic layer was dried over sodium sulphate and concentrated in vacuo to afford 28 mg (82% yield) of 4-hydroxy-N-{1-methyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LCMS Purity: 95%. 1H NMR (DMSO-d6): δ 7.76 (d, 1H), 7.60 (m, 4H), 7.36 (t, 1H), 7.26 (t, 1H), 6.8 (d, 2H), 5.2 (m, 1H), 4.2 (m, 1H), 3.9-3.4 (m, 8H), 1.4 (dd, 3H).

reactant | Ammonium formate | 0.77 mmol, 49 mg | C(=O)[O-].[NH4+]
reactant | 4-benzyloxy-N-{1-methyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 0.07 mmol, 42 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(C(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C)C=C1 | C29H28F3N3O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 4-hydroxy-N-{1-methyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 28 mg, 82% yield | OC1=CC=C(C(=O)NC(C(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C)C=C1 | C22H22F3N3O4
